US07049438B2
Using an analogous procedure to that described in the last paragraph of Note [9] in Example 15, 7-acetoxy-5-cyclopentyloxy-3,4-dihydroquinazolin-4-one (5 g) was reacted with carbon tetrachloride and triphenylphosphine to give 7-acetoxy-4-chloro-5-cyclopentyloxyquinazoline (5.3 g); NMR Spectrum: (CDCl3) 1.65–1.8 (m, 2H), 1.8–2.05 (m, 4H), 2.1 (m, 2H), 2.4 (s, 3H), 4.95 (m, 1H), 6.78 (d, 1H), 7.35 (d, 1H), 8.9 (s, 1H); Mass Spectrum: M+H+ 307 and 309.

reactant | 7-acetoxy-5-cyclopentyloxy-3,4-dihydroquinazolin-4-one | 5 g | C(C)(=O)OC1=CC(=C2C(NC=NC2=C1)=O)OC1CCCC1 | C15H16N2O4
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 7-acetoxy-4-chloro-5-cyclopentyloxyquinazoline | 5.3 g | C(C)(=O)OC1=CC(=C2C(=NC=NC2=C1)Cl)OC1CCCC1 | C15H15ClN2O3
